US08076345B2
B) (5-Cyclopropylpyridin-2-yl)methanamine
To a solution of 2-cyano-5-cyclopropylpyridine (210 mg, 1.4 mmol) in 20 mL of 7.0 M ammonia in MeOH was added a small spoon of Raney Ni slurry. The mixture was hydrogenated at 50 psi overnight. The catalyst was filtered off and the filtrate was concentrated to yield a dark oil which was used for the next step reaction without further purification.

reactant | 2-cyano-5-cyclopropylpyridine | 1.4 mmol, 210 mg | C(#N)C1=NC=C(C=C1)C1CC1 | C9H8N2
solvent | ammonia | 7.0 M, 20 mL | N | H3N
solvent | MeOH | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | (5-Cyclopropylpyridin-2-yl)methanamine | C1(CC1)C=1C=CC(=NC1)CN | C9H12N2
